US08404692B2
4-Acetyl-3,5-dimethyl-1H-pyrrole-2-carboxylic acid (2-chloro-ethyl)-amide
4-Acetyl-3,5-dimethylpyrrole carboxylic acid (15.731 g, 86.82 mmol), was taken up in anhydrous DMF (40 mL) and cooled to 0° C. Carbonyldiimidazole (14.512 g, 86.82 mmol) was added to this slurry and stirred until the evolution of gas ceased and a clear solution formed. 2-Chloroethyl amine hydrochloride (10.574 g, 91.16 mmol) was added in one portion. The reaction mixture was left to stir overnight at room temperature. The reaction mixture was extracted in water (50 mL) from DCM (4×20 mL). The aqueous layer (containing precipitate) was filtered off and washed with cold water. The white solid was found to be the target compound. (10.316 g, 42.51 mmol, 49% yield).

reactant | 4-Acetyl-3,5-dimethylpyrrole carboxylic acid | 86.82 mmol, 15.731 g | C(C)(=O)C=1C(=C(NC1C)C(=O)O)C | C9H11NO3
reactant | Carbonyldiimidazole | 86.82 mmol, 14.512 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-Chloroethyl amine hydrochloride | 91.16 mmol, 10.574 g | Cl.ClCCN
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-Acetyl-3,5-dimethyl-1H-pyrrole-2-carboxylic acid (2-chloro-ethyl)-amide | 49% yield | ClCCNC(=O)C=1NC(=C(C1C)C(C)=O)C | C11H15ClN2O2
